US05939422
(iv) 3-Cyclopentyloxy-4-methoxy-benzyl-isothiocyanate
82.3 g (372 mmoles) of benzylamine were dissolved in 10 ml of toluene and added at 15-20° C. (with cooling) within 20 minutes to an emulsion of 22.5 ml (372 mmoles) of carbon disulfide and 14.88 g (372) mmoles) of NaOH in 52 ml of water. The reaction mixture was heated to 75-80° C. for 1 hour and cooled to 40° C. Within 15 minutes, 35.4 ml (372 mmoles) of ethyl chloroformate were added at 40-45° C. The emulsion was brought to about pH 8 with 2N NaOH and heated to 55-60° C., gas formation ceased after about 10 hours keeping the pH at 8 with 2N NaOH (total about 8 ml). The organic layer was collected and the solvent evaporated: 96.3 g (98.3%) of benzyl isothiocyanate.

reactant | benzylamine | 372 mmoles, 82.3 g | C(C1=CC=CC=C1)N | C7H9N
reactant | carbon disulfide | 372 mmoles, 22.5 ml | C(=S)=S | CS2
reactant | NaOH | [OH-].[Na+]
reactant | ethyl chloroformate | 372 mmoles, 35.4 ml | ClC(=O)OCC | C3H5ClO2
reactant | NaOH | 2N | [OH-].[Na+]
reactant | NaOH | 2N, about 8 ml | [OH-].[Na+]
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 52 ml | O | H2O
product | 3-Cyclopentyloxy-4-methoxy-benzyl-isothiocyanate | C1(CCCC1)OC=1C=C(CN=C=S)C=CC1OC | C14H17NO2S
